US05712303
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2,5-dimethylbenzoyl)-3-(n-propyl)pyrazole
A solution of 0.52 g (3.0 mmol) of 2,5-dimethylbenzoylacetonitrile, 0.45 g (3.0 mmol) of trimethylorthobutyrate and 0.632 g (0.58 mL, 6.2 mmol) of acetic anhydride in 5.0 mL of ethyl acetate was refluxed overnight and then cooled. The solvents were removed in vacuo and the residues were dissolved in 10 mL of ethanol. One-half of this solution, containing 1.5 mmol of 1-cyano-1-(2,5-dimethylbenzoyl)-3-methoxy-1-pentene was mixed with 0.7 mL (0.51 g, 5.0 mmol) of triethylamine and 0.37 g (1.50 mmol) of 2,6-dichloro-4-trifluoromethylphenylhydrazine and refluxed for 2.5 hours. The reaction mixture was cooled and partitioned between dilute hydrogen chloride and ethyl acetate. The organic phase was washed with water and then dried with brine and with magnesium sulfate. The solvent was evaporated to give an oil which was chromatographed on silica gel by the flash method eluting with 4:1 hexane/ethyl acetate to give the title compound as an amorphous foam. Anal. Calcd. for C22H20ON3CL2F3, 469.0935. Found: 469.0889.

reactant | 2,5-dimethylbenzoylacetonitrile | 3.0 mmol, 0.52 g | CC1=C(C(=O)CC#N)C=C(C=C1)C | C11H11NO
reactant | trimethylorthobutyrate | 3.0 mmol, 0.45 g | COC(CCC)(OC)OC | C7H16O3
reactant | acetic anhydride | 6.2 mmol, 0.58 mL, 0.632 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-cyano-1-(2,5-dimethylbenzoyl)-3-methoxy-1-pentene | 1.5 mmol | C(#N)C(=CC(CC)OC)C(C1=C(C=CC(=C1)C)C)=O | C16H19NO2
reactant | triethylamine | 5.0 mmol, 0.7 mL, 0.51 g | C(C)N(CC)CC | C6H15N
reactant | 2,6-dichloro-4-trifluoromethylphenylhydrazine | 1.50 mmol, 0.37 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
solvent | ethyl acetate | 5.0 mL | C(C)(=O)OCC | C4H8O2
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2,5-dimethylbenzoyl)-3-(n-propyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)CCC)C(C1=C(C=CC(=C1)C)C)=O | C22H20Cl2F3N3O
